US04952601
In a stainless steel autoclave, 500 g of 3,4,5-trifluoro-benzotrifluoride are introduced, 2,000 ml of tetrahydrofuran are added, and 150 g of liquid ammonia are forced in. The autoclave is heated to 120° to 130° C. for 5 hours with stirring, then cooled, and the pressure is released at 20° C. In addition to the solvent and the starting material, 272 g of 3,5-difluoro-4-amino-benzotrifluoride of a boiling point of 58° to 60° C. at 16 mbar are obtained by distillation.

reactant | 3,4,5-trifluoro-benzotrifluoride | 500 g | FC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2F6
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 2,000 ml | O1CCCC1 | C4H8O
product | 3,5-difluoro-4-amino-benzotrifluoride | 272 g | FC=1C=C(C=C(C1N)F)C(F)(F)F | C7H4F5N
